US07985753B2
1,2-Dimethoxy-3-(2-nitro-vinyl)-benzene
In close analogy to the procedure described above, 2,3-Dimethoxy-benzaldehyde is reacted with nitromethane to provide the title compound.

reactant | 2,3-Dimethoxy-benzaldehyde | COC1=C(C=O)C=CC=C1OC | C9H10O3
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
product | 1,2-Dimethoxy-3-(2-nitro-vinyl)-benzene | COC1=C(C(=CC=C1)C=C[N+](=O)[O-])OC | C10H11NO4
